US06451810B1
Using the general method of Example 1, 1-(4-aminobutyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.55 g, 1.8 mmol) was reacted with benzoyl chloride (0.26 g, 1.8 mmol) to provide N1-[4-(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzamide as a solid, m.p. 173-174° C. 1H NMR (500 MHz, DMSO-d6) δ8.80 (broad s, 2H), 8.46 (t, J=6.0 Hz, 1H), 8.20 (d, J=8.0 Hz, 1H), 7.81 (d, J=8.4 Hz, 1H), 7.76 (d, J=7.4 Hz, 2H), 7.67 (t, J=7.4 Hz, 1H), 7.49 (m, 2H), 7.43 (t, J=7.5 Hz, 2H), 4.63 (t, J=7.0 Hz, 2H), 3.34 (m, 2H), 2.97 (t, J=7.0 Hz, 2H), 1.85 (m, 4H), 1.72 (quintet, J=7.0 Hz, 2H), 1.01 (t, J=7.0 Hz, 3H); MS (EI) m/e 401.2210 (401.2216 calcd for C24H27N5O)

reactant | 1-(4-aminobutyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.8 mmol, 0.55 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C17H23N5
reactant | benzoyl chloride | 1.8 mmol, 0.26 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N1-[4-(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(C2=CC=CC=C2)=O)CCC | C24H27N5O
